US05753664
2-[4-(4-Chlorobenzoyl)benzylthio]-3-methyl-5,6,7,8-tetrahydro-4(3H)-quinazolinone
A solution of 2-mercapto-3-methyl-5,6,7,8-tetrahydro-4(3H)-quinazolinone (980 mg), 4-(4-chlorobenzoyl) benzyl bromide (1.53 g), and 1N-sodium hydroxide/water (5.5 ml) in ethanol (10 ml)-DMF (5 ml) was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was recrystallized from methanol-ethyl acetate to provide the title compound as colorless solid (1.27 g).

reactant | 2-mercapto-3-methyl-5,6,7,8-tetrahydro-4(3H)-quinazolinone | 980 mg | SC1=NC=2CCCCC2C(N1C)=O | C9H12N2OS
reactant | 4-(4-chlorobenzoyl) benzyl bromide | 1.53 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | sodium hydroxide water | 5.5 ml | [OH-].[Na+].O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[4-(4-Chlorobenzoyl)benzylthio]-3-methyl-5,6,7,8-tetrahydro-4(3H)-quinazolinone | 1.27 g | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC=4CCCCC4C(N3C)=O)C=C2)C=C1 | C23H21ClN2O2S
